US07230007B2
10 cm3 (71 mmol) of trifluoroacetic anhydride were added, under an argon atmosphere at a temperature in the region of 0° C., to 6.6 g (26.9 mmol) of 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine in 30 cm3 of dimethylformamide. After addition of the trifluoroacetic anhydride was completed, the ice bath was removed and stirring was continued at a temperature in the region of 20° C. for one hour. 25 cm3 (178 mmol) of trifluoroacetic anhydride were then added according to the same operating procedure as above and the reaction mixture was stirred at a temperature in the region of 20° C. for 4 hours. 25 cm3 (178 mmol) of trifluoroacetic anhydride were again added and stirring was continued at a temperature in the region of 20° C. for 21 hours, then 25 cm3 (178 mmol) of trifluoroacetic anhydride were added 3 times in succession every 3 hours and the reaction mixture was stirred at a temperature in the region of 20° C. for 45 h. 25 cm3 (178 mmol) of trifluoroacetic anhydride were subsequently added 3 times in succession every 3 hours. The reaction medium was subsequently stirred at a temperature in the region of 20° C. for 117 h, then it was rapidly added to 500 cm3 of water and sodium hydrogencarbonate was gradually added until a pH of 7 was reached. The mixture was extracted 4 times with 100 cm3 of ethyl acetate. The organic extracts were combined, dried over magnesium sulfate and then concentrated to dryness under reduced pressure (2.7 kPa) and 7.2 g of a brown paste comprising 50% of the expected product and 50% of the starting material were thus obtained. This paste was reacted in 30 cm3 of dimethylformamide at a temperature in the region of 20° C. with stirring: 1.1 g (13 mmol) of sodium hydrogencarbonate were added and 50 cm3 (356 mmol) of trifluoroacetic anhydride were added, then the mixture was stirred at a temperature in the region of 20° C. for 15 h. A further 1.1 g (13 mmol) of sodium hydrogencarbonate and 50 cm3 (356 mmol) of trifluoroacetic anhydride were subsequently added, the mixture being stirred at a temperature in the region of 20° C. for 5 h, and then 50 cm3 (356 mmol) of trifluoroacetic anhydride were again run in, the mixture being stirred at a temperature in the region of 20° C. for 30 h. The reaction medium was subsequently rapidly added to 500 cm3 of water and the mixture was extracted with 4 times 250 cm3 of ethyl acetate. The organic extracts were combined, dried over magnesium sulfate and then concentrated to dryness under reduced pressure (2.7 kPa). 6.6 g of 3-trifluoroacetyl-1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine were thus obtained in the form of a brown solid with a purity of 70% (30% of 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine) which was used directly in the following stage. Mass spectrum: EI: m/z=341 M+ base peak.

reactant | trifluoroacetic anhydride | 71 mmol, 10 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 26.9 mmol, 6.6 g | N1=CC=C(C2=CC=CC=C12)N1C=CC=2C1=NC=CC2 | C16H11N3
reactant | trifluoroacetic anhydride | 178 mmol, 25 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 178 mmol, 25 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 178 mmol, 25 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 178 mmol, 25 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 500 cm3 | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydrogencarbonate | 13 mmol, 1.1 g | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic anhydride | 356 mmol, 50 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | 13 mmol, 1.1 g | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic anhydride | 356 mmol, 50 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 356 mmol, 50 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 500 cm3 | O | H2O
solvent | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | 3-trifluoroacetyl-1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 6.6 g | FC(C(=O)C1=CN(C2=NC=CC=C21)C2=CC=NC1=CC=CC=C21)(F)F | C18H10F3N3O
